US08232409B2
C. 4-Bromo-2-nitro-6-trifluoromethyl-phenylamine
2-Nitro-6-trifluoromethyl-phenylamine (10.0 g, 48.5 mmol) was placed in a 200 mL round-bottom flask equipped with a magnetic stir bar. Glacial acetic acid (100 mL) and bromine (3.24 mL, 63.1 mmol) were added, and the mixture was stirred at RT for 18 h. The mixture was poured into ice (200 mL), and the excess bromine was quenched with 10% aq Na2S2O3 (25 mL). The precipitate was isolated by filtration and washed with water. The solid was air-dried and then dried under vacuum to yield 13.8 g (100%) of the title compound. 1H-NMR (400 MHz, CDCl3) δ: 8.49 (d, J=2.3 Hz, 1H), 7.83 (d, J=1.8 Hz, 1H).

reactant | 2-Nitro-6-trifluoromethyl-phenylamine | 48.5 mmol, 10.0 g | [N+](=O)([O-])C1=C(C(=CC=C1)C(F)(F)F)N | C7H5F3N2O2
reactant | bromine | 63.1 mmol, 3.24 mL | BrBr | Br2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | 4-Bromo-2-nitro-6-trifluoromethyl-phenylamine | 13.8 g, 100% | BrC1=CC(=C(C(=C1)C(F)(F)F)N)[N+](=O)[O-] | C7H4BrF3N2O2
